US05266567
In a 250-mL round bottom flask, equipped with a magnetic stirrer, a heating mantle and reflux condenser, were placed 1-bromotetradecane (10 g, 36 mmol), acetonitrile (100 mL) and pyrrolidine (5.1 g, 72 mmol). The reaction mixture was refluxed for 3 hrs. The reaction mixture was cooled to room temperature and was concentrated on a rotary evaporator to a residue. Water and ethyl acetate were added. The organic phase was separated and washed with saturated sodium chloride solution, dried over anhydrous magnesium sulfate. After filtration, the solvent was evaporated to dryness affording 7.2 g (75% yield) of 1-tetradecylpyrrolidine, as a light yellow semi-solid. This intermediate was subjected to the next step without further purification.

reactant | 1-bromotetradecane | 36 mmol, 10 g | BrCCCCCCCCCCCCCC | C14H29Br
reactant | pyrrolidine | 72 mmol, 5.1 g | N1CCCC1 | C4H9N
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
product | 1-tetradecylpyrrolidine | 7.2 g, 75% yield | C(CCCCCCCCCCCCC)N1CCCC1 | C18H37N
